US04766125
A mixture of 4.45 parts of 5-chloro-1,1-diphenyl-2-pentanone, 9.94 parts of 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-1-piperazineacetamide and 90 parts of N,N-dimethylformamide was stirred for 48 hours at 60° C. and evaporated. The residue was taken up in water and alkalized with ammonia. The product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified twice by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was taken up in 2,2'-oxybispropane and allowed to stand for 10 days. The product was filtered off and dried at the air, yielding 0.32 parts (3.7%) of 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-4-(4-oxo-5,5-diphenylpentyl)-1-piperazineacetamide monohydrate; mp. 91.6° C. (compound 171).

reactant | 5-chloro-1,1-diphenyl-2-pentanone | ClCCCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C17H17ClO
reactant | 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-1-piperazineacetamide | NC(=O)C1CN(CCN1)CC(=O)NC1=C(C=CC=C1Cl)Cl | C13H16Cl2N4O2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(aminocarbonyl)-N-(2,6-dichlorophenyl)-4-(4-oxo-5,5-diphenylpentyl)-1-piperazineacetamide monohydrate | 3.7% | O.NC(=O)C1CN(CCN1CCCC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC(=O)NC1=C(C=CC=C1Cl)Cl | InChI=1S/C30H32Cl2N4O3.H2O/c31-23-13-7-14-24(32)29(23)34-27(38)20-35-17-18-36(25(19-35)30(33)39)16-8-15-26(37)28(21-9-3-1-4-10-21)22-11-5-2-6-12-22;/h1-7,9-14,25,28H,8,15-20H2,(H2,33,39)(H,34,38);1H2
